US05504101
Solid NaNO2 (0.35 g, 5 mmol) was added to a suspension of the p-phenethylaniline hydrochloride (1.1 g, 5 mmol) and concentrated HCl (2 ml) in H2O (3 ml) under an icewater bath. The solution was kept at -5° C. with stirring while ethyl 2-methylacetoacetate (0.72 g, 5 mmol)in EtOH 95% (5 ml) was treated at -10° C. with a solution of 50% KOH (1.7 ml) followed at once by ice (10 g). The diazo-solution was then added immediately, stirred at room temperature for 20 min, and extracted with Et2O (2×20 ml). The combined Et2O portions were dried (MgSO4) and the solvent was removed under reduced pressure to give a red oil which was taken up in anhydrous EtOH (10 ml), and dry hydrogen chloride gas was passed through the solution until ammonium chloride was precipitated. The mixture was heated at reflux for 20 min, and then stirred at room temperature for 2 h. The suspension was poured into ice water (100 ml) and extracted with Et2O (2×30 ml). The combined Et2O portions were dried (MgSO4) and the solvent was removed under reduced pressure to give a solid which was recrystallized from EtOH 95% to provide 3-ethyloxycarbonyl-5-(2-phenylethyl)indole.

reactant | NaNO2 | 5 mmol, 0.35 g | N(=O)[O-].[Na+]
reactant | p-phenethylaniline hydrochloride | 5 mmol, 1.1 g | Cl.C(CC1=CC=CC=C1)C1=CC=C(N)C=C1
reactant | HCl | 2 ml | Cl | ClH
reactant | ethyl 2-methylacetoacetate | 5 mmol, 0.72 g | CC(C(=O)OCC)C(=O)C | C7H12O3
reactant | KOH | 1.7 ml | [OH-].[K+]
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | H2O | 3 ml | O | H2O
solvent | EtOH | 5 ml | CCO | C2H6O
solvent | EtOH | 10 ml | CCO | C2H6O
product | 3-ethyloxycarbonyl-5-(2-phenylethyl)indole | C(C)OC(=O)C1=CNC2=CC=C(C=C12)CCC1=CC=CC=C1 | C19H19NO2
